US08349865B2
Step 2: 5-{[2,6-Dichloro-4-(1-hydroxy-1-methylethyl)phenyl]amino}-9-[2-(1-hydroxy-1-methylethyl)-1,3-thiazol-4-yl]benzo[c]-2,6-naphthyridin-1(2H)-one
A solution of 5-[(4-acetyl-2,6-dichlorophenyl)amino]-9-[2-(1-hydroxy-1-methylethyl)-1,3-thiazol-4-yl]benzo[c]-2,6-naphthyridin-1(2H)-one (75 mg, 0.14 mmol) in THF (2 mL) was cooled to −10° C. and methyl magnesium bromide (0.79 mL, 1.11 mmol, 1.4 M in toluene/THF) was added. The reaction was stirred rapidly keeping the temperature between −5 & 0° C. for 1 h. After warming to room temperature, the reaction was quenched with water, diluted with ethyl acetate/THF (1:3), and extracted with water. The organic layer was dried with sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with methanol in dichloromethane followed by reverse phase HPLC to afford the title compound.

reactant | 5-[(4-acetyl-2,6-dichlorophenyl)amino]-9-[2-(1-hydroxy-1-methylethyl)-1,3-thiazol-4-yl]benzo[c]-2,6-naphthyridin-1(2H)-one | 0.14 mmol, 75 mg | C(C)(=O)C1=CC(=C(C(=C1)Cl)NC1=NC2=C(C=3C(NC=CC13)=O)C=C(C=C2)C=2N=C(SC2)C(C)(C)O)Cl | C26H20Cl2N4O3S
reactant | methyl magnesium bromide | 1.11 mmol, 1.4 M, 0.79 mL | C[Mg]Br
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-{[2,6-Dichloro-4-(1-hydroxy-1-methylethyl)phenyl]amino}-9-[2-(1-hydroxy-1-methylethyl)-1,3-thiazol-4-yl]benzo[c]-2,6-naphthyridin-1(2H)-one | ClC1=C(C(=CC(=C1)C(C)(C)O)Cl)NC1=NC2=C(C=3C(NC=CC13)=O)C=C(C=C2)C=2N=C(SC2)C(C)(C)O | C27H24Cl2N4O3S
